US08309580B2
(2) ethyl 2,5-dibromothiophene-3-carboxylate
To a solution of 2,5-dibromothiophene-3-carboxylic acid (33.5 g) synthesized above in ethanol (300 mL) was added dropwise thionyl chloride (4.23 mL), and the mixture was stirred at room temperature overnight and then stirred with heating under reflux for 3 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=4:1, volume ratio) to give the title compound (33.4 g, 92%) as a white solid.

reactant | 2,5-dibromothiophene-3-carboxylic acid | 33.5 g | BrC=1SC(=CC1C(=O)O)Br | C5H2Br2O2S
reactant | thionyl chloride | 4.23 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | ethyl 2,5-dibromothiophene-3-carboxylate | 33.4 g, 92% | BrC=1SC(=CC1C(=O)OCC)Br | C7H6Br2O2S
